US05091384
Preparation of N-(p-toluenesulfonyl)-3-(aminoethyl)-4-(bromomethyl)-3-pyrroline
4 g of N-(p-toluenesulfonyl)-3-(bromomethyl)-4-(cyanomethyl)-3-pyrroline, prepared in Preparation 6, was dissolved in 100 ml of ethyl ether. The solution was slowly added to the suspension of 1 g of lithium aluminum hydride (LAH) in 20 ml of ethyl ether, and heated with refluxing for 3 hours. The reaction mixture was cooled by ice water. After adding 3 ml of water, it was stirred for 30 minutes and filtered off. The filtrate was concentrated. 2 g of the title compound was obtained (yield 49%).

reactant | N-(p-toluenesulfonyl)-3-(bromomethyl)-4-(cyanomethyl)-3-pyrroline | 4 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CC#N)CBr)C | C14H15BrN2O2S
reactant | lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3 ml | O | H2O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-(p-toluenesulfonyl)-3-(aminoethyl)-4-(bromomethyl)-3-pyrroline | 2 g, yield 49% | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CBr)CCN)C | C14H19BrN2O2S
